US09260441B2
Step B: tert-Butyl 4-(2-methyl-3-pyridyl)piperidine-1-carboxylate
tert-Butyl 4-(2-methyl-3-pyridyl)-3,6-dihydro-2H-pyridine-1-carboxylate (209 mg, 0.76 mmol) was dissolved in ethanol (42 ml) and hydrogenated in a H-cube hydrogen generator with a flow of 1 ml/min and at a temperature of 70° C. The mixture was evaporated under reduced pressure, the residue was purified by preparative HPLC (Waters X-Bridge, gradient of water containing 0.1% NH3 and acetonitrile) to yield 100 mg of a colourless solid (0.36 mmol, yield 47%). MS (ESI) m/z=277.2 [M+1]+.

reactant | tert-Butyl 4-(2-methyl-3-pyridyl)-3,6-dihydro-2H-pyridine-1-carboxylate | 0.76 mmol, 209 mg | CC1=NC=CC=C1C=1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O2
solvent | ethanol | 42 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
product | tert-Butyl 4-(2-methyl-3-pyridyl)piperidine-1-carboxylate | 0.36 mmol, 100 mg, yield 47% | CC1=NC=CC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
